US05001125
To a stirred sodium methoxide solution, previously prepared starting from 1.6 parts of sodium in 24 parts of methanol, were added 4 parts of 3-chloro-6-[4-(3-methylphenyl)-1-piperazinyl]pyridazine. The whole was stirred and refluxed for 40 hours. After cooling, 25 parts of water were added. The product was filtered off, washed with water and dissolved in trichloromethane. The organic layer was dried, filtered and evaporated. The residue was crystallized from a mixture of 2-propanol and 2,2'-oxybispropane. The product was filtered off and dried, yielding 2 parts (50%) of 3-methoxy-6-[4-(3-methylphenyl)-1-piperazinyl]pyridazine; mp. 137.1° C. (compound 258).

reactant | sodium methoxide | C[O-].[Na+]
reactant | sodium | [Na] | Na
reactant | methanol | CO | CH4O
reactant | 3-chloro-6-[4-(3-methylphenyl)-1-piperazinyl]pyridazine | ClC=1N=NC(=CC1)N1CCN(CC1)C1=CC(=CC=C1)C | C15H17ClN4
solvent | water | O | H2O
product | 3-methoxy-6-[4-(3-methylphenyl)-1-piperazinyl]pyridazine | 50% | COC=1N=NC(=CC1)N1CCN(CC1)C1=CC(=CC=C1)C | C16H20N4O
